US06828427B1
N-Fmoc-3,4-Trans-Dicarboxymethylpyrrolidine
Dimethylfumarate (38.7 g, 268 mmol) was dissolved in 1 l CH2Cl2, and trifluoroacetic acid added (3 ml, 40 mmol). The Azomethine ylide precursor N-Benzyl-N-Methoxymethyl-N-(Trimethylsilylmethyl)-amine was added dropwise with stirring (60.4 g, 255 mmol). The solution was stirred overnight at RT. The solvent was removed and the crude product was redissolved in 1.5 l methanol. 300 ml 1 N HCl was added, the solution degassed with Ar, and 10 g 10% Pd/C added. H2 was bubbled through then the solution stirred under a H2 balloon until the material was consumed (24 hr). The catalyst was filtered, the solvent removed and the residue redissolved in 500 ml H2O and 500 ml dioxane to which was added 32 g (300 mmol) Na2CO3. A solution of Fmoc-Cl (66 g, 255 mmol) in 500 ml dioxane was added dropwise. The solution was stirred 16 h, acidified to pH 3 and the solvent evaporated. The residue was extracted with EtOAc, washed with water, brine dried with MgSO4 and evaporated. 92 g title product was obtained.

reactant | Dimethylfumarate | 268 mmol, 38.7 g | C\C(=C(/C(=O)[O-])\C)\C(=O)[O-]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-Benzyl-N-Methoxymethyl-N-(Trimethylsilylmethyl)-amine | C(C1=CC=CC=C1)N(C[Si](C)(C)C)COC | C13H23NOSi
reactant | Na2CO3 | 300 mmol, 32 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Fmoc-Cl | 255 mmol, 66 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
solvent | CH2Cl2 | 1 l | C(Cl)Cl | CH2Cl2
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
product | N-Fmoc-3,4-Trans-Dicarboxymethylpyrrolidine | 92 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N1C[C@H]([C@@H](C1)CC(=O)O)CC(=O)O | C23H23NO6
